US03951958
A solution of 400 mg. of 8α-estra-1,3,5(10)-triene-1,3,16α,17β-tetrol in 5 ml. of pyridine is combined at 0° C. with 2 ml. of methanesulfonic acid chloride, and the mixture is agitated for 3 days at 0°-10° C. Thereafter, the mixture is introduced into ice water (acidified with HCl), filtered off, and the residue dissolved in methylene chloride. After purification by chromatography on SiO2, 220 mg. of rac.-1,3,16α,17β-tetrakis(mesyloxy)-8α-estra-1,3,5(10)-triene is obtained.

reactant | 8α-estra-1,3,5(10)-triene-1,3,16α,17β-tetrol | C[C@@]12[C@H]([C@@H](C[C@H]1[C@H]1CCC=3C=C(C=C(C3[C@H]1CC2)O)O)O)O | C18H24O4
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | rac.-1,3,16α,17β-tetrakis(mesyloxy)-8α-estra-1,3,5(10)-triene | S(=O)(=O)(C)OC1=CC(=CC=2CC[C@@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3C12)OS(=O)(=O)C)OS(=O)(=O)C)OS(=O)(=O)C | C22H32O12S4
